US07951810B2
Step a: (2-Chloro-9H-purin-6-yl)-(S)-indan-1-yl-amine
(S)-(+)-1-Aminoindane (266.0 mg, 2.0 mmol), 2,6-dichloropurine (380 mg, 2.0 mmol) and N,N-diisopropylethylamine (380 μL, 2.2 mmol), were dissolved in Ethanol (4.0 mL) and reacted in a microwave at 120° C. for 600 s. A yellow solid formed which was filtered, washed with ethanol (20 mL) and dried to give the title compound 0.455 g, 80% yield.

reactant | (S)-(+)-1-Aminoindane | 2.0 mmol, 266.0 mg | N[C@H]1CCC2=CC=CC=C12 | C9H11N
reactant | 2,6-dichloropurine | 2.0 mmol, 380 mg | ClC1=NC(=C2NC=NC2=N1)Cl | C5H2Cl2N4
reactant | N,N-diisopropylethylamine | 2.2 mmol, 380 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | Ethanol | 4.0 mL | C(C)O | C2H6O
product | (2-Chloro-9H-purin-6-yl)-(S)-indan-1-yl-amine | 0.455 g, 80% yield | ClC1=NC(=C2N=CNC2=N1)N[C@H]1CCC2=CC=CC=C12 | C14H12ClN5
